US05792779
Step D: Ethyl-(2-t-Butoxycarbonylaminomethyl-4-Chlorophenoxy)-Acetate
A mixture of N-t-butoxycarbonyl-2-hydroxy-5-chlorobenzylamine (730 mg, 2.83 mmol), Cs2CO3 (923 mg, 2.83 mmol) and ethylbromoacetate (0.314 ml, 2.83 mmol) on DMF (5 ml) was stirred for 2 h. The crude reaction mixture was partitioned between ethyl acetate and water and the organic layer was washed with brine, dried (Na2SO4) and evaporated in vacuo to an oil which was used for the next step.

reactant | N-t-butoxycarbonyl-2-hydroxy-5-chlorobenzylamine | 2.83 mmol, 730 mg | C(C)(C)(C)OC(=O)NCC1=C(C=CC(=C1)Cl)O | C12H16ClNO3
reactant | Cs2CO3 | 2.83 mmol, 923 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethylbromoacetate | 2.83 mmol, 0.314 ml | C(C)OC(CBr)=O | C4H7BrO2
product | Ethyl-(2-t-Butoxycarbonylaminomethyl-4-Chlorophenoxy)-Acetate | C(C)OC(COC1=C(C=C(C=C1)Cl)CNC(=O)OC(C)(C)C)=O | C16H22ClNO5
